Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
guaifenesin / shellfish derived / Sulfa (Sulfonamide 
Antibiotics) / Xylocaine-Epinephrine
 
Attending: ___
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old woman with HTN, migraines, GERD, 
remote cholecystectomy, and a history pancreatitis and 
choledocholithiasis episodes requiring ERCP, who presented to 
her PCP yesterday with ear pressure, dizziness, chest pressure, 
and abdominal pain, and on further evaluation was noted to have 
lipase elevation to 1400, and RUQUS with biliary dilation, 
concerning for choledocholithiasis with biliary obstruction and 
pancreasitis. 

She states that in the past week or so she had URI symptoms and 
had several transient episodes of dizziness, as well as a sense 
of ear pressure, which has now resolved. She reported chest 
tightness for about one week, as well as intermittent dyspnea, 
which she continues to report. Within the past ___ days she has 
had epigastric and RUQ pain, radiating to the back, similar to 
prior episodes of pancreatitis but overall less severe. She has 
also had worsened heart burn over the past few days. She has 
continued to take POs (some mild nausea earlier, but not at this 
time) and has not have fevers, chills, or diarrhea.

Of note during her most recent admission for choledocholithiasis 
(without pancreatitis) at ___ in ___ she 
underwent ERCP with sphincterotomy and balloon extraction of 
stone and debris. Her course was complicated by GNR bacteremia 
and c diff. She also had hypoxia that was felt to be related to 
atelectasis and effusions related to aggressive IV fluids. She 
also reportedly had a negative stress echo around that time. 

She was referred to the ED at ___ by her primary care office 
for possible ERCP given the suspicion for recurrent gallstone 
pancreatitis and biliary obstruction based on the RUQUS results. 
In the ED she reported mild pain, was afebrile, HR ___ BP 
120s-150s/70s-90s, satting 96-98% on room air. Labs with normal 
UA, normal lactate, and potassium notable for BUN 21, ALT 48, 
AST 49, Alk Phos 67, LDH 482, lipase 798, Tbili 0.2, WBC 10.1. 

ROS: As per HPI, and 10 point ROS completed and otherwise 
negative, except as follows:
- reports one month of intermittent leg discomfort at night only
 
Past Medical History:
HTN
GERD
Recurrent pancreatitis, history of ERCP for biliary 
stones/sludge
C diff colitis (___)
carpal tunnel
anxiety
depression
osteoporosis
HL
IBS
migraines
mitral valve prolapse
s/p ccy ___
knee replacement
trigger release
arthroscopic knee surgery
 
Social History:
___
Family History:
Brother - CAD. Father - prostate cancer. Mother - breast cancer.
 
Physical Exam:
ADMISSION EXAM:
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma.
MMMs
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, TTP mostly in epigastrium and
RUQ.  Bowel sounds present.  No HSM
GU: No CVA/suprapubic tenderness
MSK: No swollen or erythematous joints
SKIN: No rashes or ulcerations noted
EXTR: wwp no edema
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, strength grossly intact/symmetric
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM:
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
MMMs
CV: Heart regular, no murmur, no S3, no S4. No JVD.
RESP: Lungs clear to auscultation with good air movement 
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, TTP remains slightly in 
epigastrium and RUQ. Bowel sounds present. No HSM.
GU: No CVA/suprapubic tenderness
MSK: No swollen or erythematous joints
SKIN: No rashes or ulcerations noted
EXTR: WWP no edema
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, strength grossly intact/symmetric
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
ADMISSION LABS:
___ 10:05PM BLOOD WBC: 10.1* RBC: 4.44 Hgb: 12.4 Hct: 39.1
MCV: 88 MCH: 27.9 MCHC: 31.7* RDW: 14.6 RDWSD: 47.5* Plt Ct: 279 

___ 10:05PM BLOOD Glucose: 96 UreaN: 21* Creat: 0.8 Na: 141
K: 5.5* Cl: 104 HCO3: 24 AnGap: 13 
___ 10:05PM BLOOD ALT: 48* AST: 49* LD(LDH): 482* AlkPhos:
67 TotBili: 0.2 
___ 10:05PM BLOOD Lipase: 798* 
___ 10:05PM BLOOD Albumin: 3.8 
___ 10:10PM BLOOD Lactate: 1.5 K: 4.0 

DISCHARGE LABS:
___ 06:45AM BLOOD WBC-8.1 RBC-4.93 Hgb-14.1 Hct-43.3 MCV-88 
MCH-28.6 MCHC-32.6 RDW-14.2 RDWSD-45.8 Plt ___
___ 06:45AM BLOOD Glucose-95 UreaN-18 Creat-0.8 Na-142 
K-5.3* Cl-101 HCO3-30 AnGap-11
___ 06:45AM BLOOD ALT-31 AST-16 AlkPhos-81 TotBili-0.2
___ 06:45AM BLOOD Albumin-3.8 Calcium-9.1 Mg-2.4

No labs ordered on day of discharge.

MICRO: 
C.diff ___: Positive for C.diff

IMAGING:
___ ultrasound obtained:
"1. Mild fatty infiltration of the liver. 2. Common bile duct 
measures 0.48 cm. However, there appears to be some increased 
echogenic material within the CBD which could represent sludge 
or even stones. 3. Probable small right angiomyolipoma. 4. 
Follow up with ERCP is recommended as this patient will probably 
need treatment of the common duct as well, based upon history of 
prior choledocholithiasis. Other possibilities do include sludge 
within the common duct"

KUB ___:
Aside from multiple surgical clips, there is no evidence of a 
metallic foreign body in the abdomen. 
 
CXR ___
No prior chest radiographs available.  Lungs are fully expanded 
and clear. Cardiomediastinal and hilar silhouettes and pleural 
surfaces are normal. 

MRCP ___:
1.  No intra- or extrahepatic biliary dilatation. No 
choledocholithiasis.  
Pneumobilia in the left hepatic lobe, presumably related to 
prior biliary 
intervention or sphincterotomy. Surgically absent gallbladder. 
2.  Mild-to-moderate diffuse hepatic steatosis, with calculated 
fat fraction of 12%. 

 
Brief Hospital Course:
___ year old woman with HTN, migraines, GERD, remote 
cholecystectomy, and a history of pancreatitis and 
choledocholithiasis episodes requiring ERCP who was transferred
from an OSH for further evaluation of acute pancreatitis and 
possible choledocholithiasis.

#Acute pancreatitis, possible gallstone in etiology
Pt presented with epigastric pain and nausea, found to have 
acute pancreatitis.  Possibly this may be due to retained 
gallstones but unclear as no obvious obstructing stone seen on 
RUQ US.  Pain controlled with prn morphine->oxycodone.  US also 
showed CBD sludge but no clear dilation or obstruction. MRCP 
negative for choledocholithiasis.  ERCP team following, no 
indication for repeat ERCP at this time. Pt's diet was gradually 
advanced and she was tolerating a regular diet without 
significant worsening of pain on discharge.  Patient is advised 
to avoid fatty food and NO alcohol

#Recurrent c.diff
Pt noted to have some loose stools during this hospitalization. 
Sent for c.diff and came back positive. Per pt's report, this is 
third recurrence in last few months.  She was restarted on 
2-week course of PO vanc (day 1: ___.

#GERD
Pt placed on protonix in place of nexium.  Counseled that 
continuing PPI/H2 blocker could increase her risk of developing 
c.diff but pt states that her GERD is poorly controlled without 
it.

#Chest tightness, dyspnea
Pt c/o chest tightness and dyspnea on presentation.  Likely 
referred pain from pancreatitis.  Trops negative in ED x2, and 
history/exam overall reassuring. EKG
overall unrevealing and similar to prior. Chest pain improved 
with tx of pancreatitis above.

#HTN/migraines: Continued home verapamil

#Depression/anxiety: Continued home venlafaxine
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Verapamil SR 120 mg PO Q24H 
2. Nexium 40 mg Other DAILY 
3. Calcium Carbonate 500 mg PO QID:PRN heart burn 
4. Restasis 0.05 % ophthalmic (eye) PRN 
5. Cholestyramine 4 gm PO QHS 
6. Venlafaxine XR 75 mg PO DAILY 

 
Discharge Medications:
1.  Vancomycin Oral Liquid ___ mg PO QID 
Day 1: ___
last day: ___ 
RX *vancomycin 125 mg/2.5 mL 125 syringe(s) by mouth Four times 
a day Disp #*56 Syringe Refills:*0 
2.  Calcium Carbonate 500 mg PO QID:PRN heart burn  
3.  Cholestyramine 4 gm PO QHS  
4.  Nexium 40 mg Other DAILY  
5.  Restasis 0.05 % ophthalmic (eye) PRN  
6.  Venlafaxine XR 75 mg PO DAILY  
7.  Verapamil SR 120 mg PO Q24H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute pancreatitis (likely due to passed gallstone)
C.diff diarrhea

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
You were admitted with abdominal pain and elevated liver tests.  
We found that you had some inflammation of your pancreas (a 
condition called pancreatitis) that was likely triggered by a 
retained gallstone. We did an MRI which did not show any active 
obstructing stones in your pancreas or bile ducts. Your liver 
tests also improved on their own.

While you were here, we also found that you had recurrent 
diarrhea caused by c.diff.  We treated you with an oral 
antibiotic called Vancomycin and your stools improved.  Please 
talk to your physicians about taking oral vancomycin 
prophylactically if you will need any antibiotics again in the 
future.

Please return if you have worsening abdominal pain, jaundice, 
recurrent profuse/watery diarrhea, fevers/chills, or if you have 
any other concerns.

Especially given that your husband is immunocompromised, please 
be very careful about using your own bathroom at home and 
careful hand hygiene for the two weeks while you complete 
treatment for clostridium difficile colitis.

It was a pleasure taking care of you at ___ 
___.

Sincerely,
Your ___ team
 
Followup Instructions:
___